US07566739B2
1(c) N-[4-((1R)-1-{[(R)-TERT-BUTYLSULFINYL]AMINO}ETHYL)-2-METHYLPHENYL]METHANESULFONAMIDE
To a solution of titanium(IV) ethoxide (1.32 g, 5.8 mol) and N-(4-acetyl-2-methylphenyl) methanesulfonamide (800 mg, 3.5 mmol) in tetrahydrofuran (20 mL) was added (R)-(+)-2-methyl-2-propanesulfinamide (423 mg, 350 mmol) under a nitrogen atmosphere and the mixture was heated at 70° C. for 16 hours. It was quenched with water and the resulting white precipitate was filtered off. The filtrate was partitioned between ethyl acetate and water. The organic layer was dried over sodium sulfate and concentrated in vacuo. The crude material was purified by silica gel column chromatography, eluting with hexane/ethyl acetate (4:1). The yellow oil obtained was dissolved in tetrahydrofuran (10 mL) and the solution was added to sodium borohydride (242 mg, 6.4 mmol) in tetrahydrofuran (10 mL) at −70° C. The mixture was stirred at −70° C. for 5 hours and then quenched with methanol. It was stirred at room temperature for 1 hour and concentrated in vacuo to furnish 530 mg (45%) of the title compound. MS (ESI) m/z 333 (M+H)+, 331 (M−H)−.

reactant | N-(4-acetyl-2-methylphenyl) methanesulfonamide | 3.5 mmol, 800 mg | C(C)(=O)C1=CC(=C(C=C1)NS(=O)(=O)C)C | C10H13NO3S
reactant | (R)-(+)-2-methyl-2-propanesulfinamide | 350 mmol, 423 mg | CC(C)(C)[S@@](=O)N | C4H11NOS
reactant | sodium borohydride | 6.4 mmol, 242 mg | [BH4-].[Na+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
catalyst | titanium(IV) ethoxide | 5.8 mol, 1.32 g | [O-]CC.[Ti+4].[O-]CC.[O-]CC.[O-]CC
product | N-[4-((1R)-1-{[(R)-TERT-BUTYLSULFINYL]AMINO}ETHYL)-2-METHYLPHENYL]METHANESULFONAMIDE | 530 mg, 45% | C(C)(C)(C)[S@@](=O)N[C@H](C)C1=CC(=C(C=C1)NS(=O)(=O)C)C | C14H24N2O3S2
